US08258134B2
A solution of 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide (44.5 g, 0.17 mol) in ethanol (100 mL) was treated with 10% palladium on carbon (4.5 g) and ammonium formate (21.1 g, 0.34 mol). The resulting mixture was heated to reflux for 5 min. The reaction was then cooled to 25° C. and filtered. The filtrate was concentrated in vacuo. Silica gel column chromatography afforded 2-(6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide (31.1 g, 80%) as a white solid; ESI-MS 232 [M+H+]; HPLC: >95% (purity). 1H-NMR (300 MHz, CD3OD) δ 7.95-7.96 (d, 1H), 7.78-7.81 (m, 1H), 7.63-7.68 (m, 1H), 7.45-7.50 (m, 1H), 7.29-7.31 (d, 1H), 5.83-5.84 (d, 1H).

reactant | 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide | 0.17 mol, 44.5 g | ClC1=C(C=NNC1=O)OC1=C(C(=O)N)C=CC=C1 | C11H8ClN3O3
reactant | ammonium formate | 0.34 mol, 21.1 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 4.5 g | [Pd] | Pd
product | 2-(6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide | 31.1 g, 80% | O=C1C=C(C=NN1)OC1=C(C(=O)N)C=CC=C1 | C11H9N3O3
